US08058447B2
Ethyl 5-cyano-4-(6-fluoro-2-methyl-4-oxo-4H-chromen-8-yl)-2-methyl-6-(trifluoromethyl)-1,4-dihydropyridine-3-carboxylate
A solution of 230 mg (0.72 mmol) of ethyl 2-[(6-fluoro-2-methyl-4-oxo-4H-chromen-8-yl)-methylene]-3-oxobutanoate in 10 ml of 2-propanol is mixed with 98.34 mg (0.72 mmol) of 3-amino-4,4,4-trifluorobut-2-enenitrile [preparation in analogy to K. Krespan, J. Org. Chem. 34, 42-45 (1969)] and 12.2 mg (0.11 mmol) of potassium tert-butoxide and stirred under reflux for 12 h. After cooling, the mixture is concentrated. The residue is purified on an Analogix cartridge (F12M) (mobile phase: cyclohexane/ethyl acetate 2:1). The resulting crystals are purified further by preparative HPLC. 27.4 mg (8.69% of theory) of the title compound are obtained as yellow crystals.

reactant | ethyl 2-[(6-fluoro-2-methyl-4-oxo-4H-chromen-8-yl)-methylene]-3-oxobutanoate | 0.72 mmol, 230 mg | FC=1C=C2C(C=C(OC2=C(C1)C=C(C(=O)OCC)C(C)=O)C)=O | C17H15FO5
reactant | 3-amino-4,4,4-trifluorobut-2-enenitrile | 0.72 mmol, 98.34 mg | NC(=CC#N)C(F)(F)F | C4H3F3N2
reactant | potassium tert-butoxide | 0.11 mmol, 12.2 mg | CC(C)([O-])C.[K+]
solvent | 2-propanol | 10 ml | CC(C)O | C3H8O
product | Ethyl 5-cyano-4-(6-fluoro-2-methyl-4-oxo-4H-chromen-8-yl)-2-methyl-6-(trifluoromethyl)-1,4-dihydropyridine-3-carboxylate | C(#N)C=1C(C(=C(NC1C(F)(F)F)C)C(=O)OCC)C=1C=C(C=C2C(C=C(OC12)C)=O)F | C21H16F4N2O4
